US09447039B2
A suspension of (1R,E)-N-(2-methylcyclohexylidene)-1-phenylethanamine (I-8a: 25 g, 116.27 mmol) and Raney-Ni (3.75 g) in ethanol (250 mL) was maintained under hydrogen atmosphere in a Parr hydrogenator using 5 bar pressure for 2 days. The reaction mixture was filtered and filtrate evaporated under reduced pressure. The crude compound was treated with ethereal HCl, and the precipitated salt was filtered, washed with cold ether and dried to afford 20 g (80%) of 2-methyl-N—((R)-1-phenylethyl)-cyclohexanamine (I-8b) as a white solid.

reactant | (1R,E)-N-(2-methylcyclohexylidene)-1-phenylethanamine | 116.27 mmol, 25 g | CC1\C(\CCCC1)=N\[C@H](C)C1=CC=CC=C1 | C15H21N
solvent | ethanol | 250 mL | C(C)O | C2H6O
catalyst | Ni | 3.75 g | [Ni] | Ni
product | 2-methyl-N—((R)-1-phenylethyl)-cyclohexanamine | 20 g, 80% | CC1C(CCCC1)N[C@H](C)C1=CC=CC=C1 | C15H23N
